US09334269B2
To a flask charged with tert-butyl 3-(1-(4-chlorophenoxy)ethyl)azetidine-1-carboxylate (140 mg, 0.449 mmol) was added CH2Cl2 (1796 μL) followed by TFA (242 μL, 3.14 mmol). The reaction mixture was stirred at RT for 72 h. The yellow solution was dried under reduced pressure and purified with a 2 g SCX-2 column loading and washing with MeOH, then washing with 2M NH3 in MeOH to afford 3-(1-(4-chlorophenoxy)ethyl)azetidine (57 mg, 0.269 mmol, 60.0% yield, about 10% impurity present) as a light pink oil.

reactant | tert-butyl 3-(1-(4-chlorophenoxy)ethyl)azetidine-1-carboxylate | 0.449 mmol, 140 mg | ClC1=CC=C(OC(C)C2CN(C2)C(=O)OC(C)(C)C)C=C1 | C16H22ClNO3
reactant | TFA | 3.14 mmol, 242 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1796 μL | C(Cl)Cl | CH2Cl2
product | 3-(1-(4-chlorophenoxy)ethyl)azetidine | 0.269 mmol, 57 mg, 60.0% yield | ClC1=CC=C(OC(C)C2CNC2)C=C1 | C11H14ClNO
